US05665348
Into a two-necked flask provided with a reflux condenser and a dropping funnel were introduced 94.3 g (0.6 mol) of methacryloyloxyethyl-N,N-dimethylamine, 78 g of isopropyl ether and 0.1 g of hydroquinone monomethyl ether, which was employed as a polymerization inhibitor, and mixed homogeneously. After dropping 149.5 g (0.6 mol) of 1-bromododecane thereinto within about 15 minutes, the mixture was allowed to stand overnight under stirring at room temperature. Then the reaction mixture was washed with 500 ml of isopropyl ether to obtain crystals of methacryloyloxyethyl-N,N-dimethyldodecylammonium bromide.

reactant | methacryloyloxyethyl-N,N-dimethylamine | 0.6 mol, 94.3 g | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | isopropyl ether | 78 g | C(C)(C)OC(C)C | C6H14O
reactant | hydroquinone monomethyl ether | 0.1 g | COC1=CC=C(O)C=C1 | C7H8O2
reactant | 1-bromododecane | 0.6 mol, 149.5 g | BrCCCCCCCCCCCC | C12H25Br
product | methacryloyloxyethyl-N,N-dimethyldodecylammonium bromide | [Br-].C(C(=C)C)(=O)OCC[N+](C)(C)CCCCCCCCCCCC | InChI=1S/C20H40NO2.BrH/c1-6-7-8-9-10-11-12-13-14-15-16-21(4,5)17-18-23-20(22)19(2)3;/h2,6-18H2,1,3-5H3;1H/q+1;/p-1
